US06080743
N-(2,3-Dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-2-methylaziridine hydrobromide
180 mg (0.59 mmol) of N-(2,3-dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-2-methylaziridine are stirred in a 33% solution of hydrogen bromide in acetic acid for 2 hours at 70° C. The mixture is diluted with diethyl ether and the solid is filtered off and washed with diethyl ether. After drying, the title compound is obtained in the form of a yellow solid. M.p.=241° C. (decomp.).

reactant | N-(2,3-dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-2-methylaziridine | 0.59 mmol, 180 mg | COC1=NC2=CC(=CC(=C2N=C1OC)CN1C(C1)C)[N+](=O)[O-] | C14H16N4O4
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(2,3-Dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-2-methylaziridine hydrobromide | Br.O=C1NC2=CC(=CC(=C2NC1=O)CN1C(C1)C)[N+](=O)[O-] | InChI=1S/C12H12N4O4.BrH/c1-6-4-15(6)5-7-2-8(16(19)20)3-9-10(7)14-12(18)11(17)13-9;/h2-3,6H,4-5H2,1H3,(H,13,17)(H,14,18);1H
